US07067540B2
To an ice-cold solution of 3-(methylsulfonyl)benzoic acid (1.4 g, 7.1 mmol) in 2:1 Et2O/THF (60 mL) was added LiAlH4 (8.5 mL of 1.0 M solution in THF, 8.5 mmol), and the reaction mixture was heated at reflux for 1 h. The reaction mixture was cooled to 0° C., and the reaction was quenched with water (15 mL) and 15% NaOH in water (35 mL). The reaction mixture was filtered, concentrated under reduced pressure, and the residue was dissolved in EtOAc. The organic solution was washed with water and then brine, dried (MgSO4), filtered, and concentrated under reduced pressure. Purification by flash column chromatography (silica, eluent 1:2 to 3:1 EtOAc/hexanes) provided (3-methanesulfonyl)phenyl methanol as a clear oil (0.56 g, 42%): 1H NMR (300 MHz, CDCl3) δ 7.93 (s, 1H), 7.83 (d, J=7 Hz, 1H), 7.64 (d, J=7 Hz, 1H), 7.53 (t, J=7 Hz, 1H), 4.78 (d, J=6 Hz, 2H), 3.05 (s, 3H), 2.61 (br s, 1H). Step 2. Preparation of 1-Chloromethyl-3-methanesulfonylbenzene.

reactant | 3-(methylsulfonyl)benzoic acid | 7.1 mmol, 1.4 g | CS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C8H8O4S
reactant | LiAlH4 | 8.5 mmol, 1.0 M, 8.5 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | Et2O THF | 60 mL | CCOCC.C1CCOC1
product | (3-methanesulfonyl)phenyl methanol | 0.56 g, 42% | CS(=O)(=O)C=1C=C(C=CC1)CO | C8H10O3S
